US06528503B2
To a stirred solution of diisopropylamine (1.9 mL, 13 mmol) in dry THF (20 mL) at 0° C. under inert atmosphere was added n-butyllithium (5.2 mL of a 2.5 M solution in hexane, 13 mmol) dropwise over a period of 5 min. The solution was cooled to −78 ° C. and ethyl 3-(1-methyl-cyclopropyl)propanoate (1.87 g, 12 mmol) was added dropwise over a period of 5 min. The solution was stirred at −78 ° C. for 1 h at which time (+)-camphorsulfonyloxaziridine (3.5 g, 15 mmol) was added all at once. The resulting suspension was stirred at −78 ° C. for 30 min and then allowed to warm to ambient temperature over 30 min. EtOAc (50 mL) and saturated aqueous ammonium chloride (25 mL) were added and the organic layer was separated and washed with water (20 mL), dried (MgSO4), and filtered. The solvents were removed under reduced pressure and the resulting oily solid was stirred in ether (15 mL) for 30 min. The solid was removed by filtration and the filtrate solvent was removed under reduced pressure. The residue was purified by flash column chromatography using a gradient elution of 10% to 15% EtOAc in hexanes to give ethyl 2-hydroxy-3-(1-methyl-cyclopropyl)propanoate as a colorless liquid. TLC Rf=0.5 (20% EtOAc-hexanes); HPLC RT=2.73 min (Method A); 1H NMR 400 MHz, CDCl3, 4.31 ppm (M, 1H)4.23 ppm (m, 2H), 2.65 ppm (d, J=6.1 Hz, 1H), 1.76 ppm (dd, J=4.2, 14.6 Hz, 1H), 1.54 ppm (dd, J=8.4, 14.6 Hz, 1H), 1.30 (t, J=8 Hz, 3H), 1.14 ppm (s, 3H), 0.42 ppm (m. 1H), 0.30 ppm (m, 3H)

reactant | diisopropylamine | 13 mmol, 1.9 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | ethyl 3-(1-methyl-cyclopropyl)propanoate | 12 mmol, 1.87 g | CC1(CC1)CCC(=O)OCC | C9H16O2
reactant | ammonium chloride | 25 mL | [Cl-].[NH4+]
reactant | THF | 20 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | ethyl 2-hydroxy-3-(1-methyl-cyclopropyl)propanoate | OC(C(=O)OCC)CC1(CC1)C | C9H16O3
